US05049671
(±)-cis-4-(2-Amino-6-(ethylamino)-9H-purin-9-yl)-2-cyclopentene-1-methanol
(±)-cis-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (0.544g, 2 mmol) was added to an ethyl amine-saturated methanol solution (14 mL). The solution was heated at 80° C. in a Parr bomb for 2.5 hours. 1 N NaOH (2 mL) was added, and solvent evaporated. The residual oil was chromatographed on silica gel. Title compound was eluted with 10% methanol-chloroform; white crystals after crystallization from acetonitrile-methanol (0.365 g, 67%); mp 171-173° C.;

reactant | (±)-cis-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 2 mmol, 0.544g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | ethyl amine | 14 mL | C(C)N | C2H7N
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
product | (±)-cis-4-(2-Amino-6-(ethylamino)-9H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)NCC | C13H18N6O
